US05420275
8-Amino-5-chloro-7-(4-aminophenyl)pyrido[3,4-d]pyridazine-1,4(2H,3H)dione (L-043)
To 0.30 g of 3-amino-6-chloro-4,5-diethoxycarbonyl-2-(4-aminophenyl)pyridine was added 6 ml of hydrazine monohydrate, and the mixture was heated at 90° C. for 30 minutes. The reaction mixture was poured into 150 ml of ice-water and the mixture was adjusted to pH 6 with acetic acid. The resultant precipitate was collected by filtration, and washed with water, followed by reprecipitation from DMSO/H2O, whereby 0.21 g of the title compound was obtained as orange powder.

reactant | 3-amino-6-chloro-4,5-diethoxycarbonyl-2-(4-aminophenyl)pyridine | 0.30 g | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)Cl)C1=CC=C(C=C1)N | C17H18ClN3O4
reactant | hydrazine monohydrate | 6 ml | O.NN
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Amino-5-chloro-7-(4-aminophenyl)pyrido[3,4-d]pyridazine-1,4(2H,3H)dione | 0.21 g | NC1=C(N=C(C=2C(NNC(C21)=O)=O)Cl)C2=CC=C(C=C2)N | C13H10ClN5O2
